US05242931
1-Methylpiperazine, 30 ml, and 74 g of paraformaldehyde were dissolved in 2 l of tetrachloroethane and 100 ml of trifluoroacetic acid was dropwise added to the solution. After stirring at 60° C. for 2 hours, a solution of 36 g of methyl 1-methylene-6,11-dihydrodibenz[b,e]oxepin-2-carboxylate in 600 ml of tetrachloroethane was dropwise added to the reaction mixture followed by stirring at 90° C. for further 3 hours. The reaction mixture was concentrated to dryness under reduced pressure and 4 N hydrochloric acid aqueous solution was added to the residue to adjust pH to 1. Then, the mixture was washed with diethyl ether. Thereafter, 10 N sodium hydroxide aqueous solution was added to adjust pH to 13. Extraction was performed with 3 l of methylene chloride. After washing with saturated sodium chloride aqueous solution and drying over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The resulting residue was subjected to silica gel column chromatography (eluting solvent; hexane: ethyl acetate: triethylamine=5:5:1) to give 44 g of colorles oily methyl 11-[2-(4-methyl-1-piperazinyl)ethylidene]-6,11-dihydrodibenz[b,e]oxepin-2-carboxylate.

reactant | 1-Methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | paraformaldehyde | 74 g | C=O | CH2O
reactant | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methyl 1-methylene-6,11-dihydrodibenz[b,e]oxepin-2-carboxylate | 36 g | C=C1C(C=CC=2OCC3=C(CC21)C=CC=C3)C(=O)OC | C17H16O3
solvent | tetrachloroethane | 2 l | ClCC(Cl)(Cl)Cl | C2H2Cl4
solvent | tetrachloroethane | 600 ml | ClCC(Cl)(Cl)Cl | C2H2Cl4
product | methyl 11-[2-(4-methyl-1-piperazinyl)ethylidene]-6,11-dihydrodibenz[b,e]oxepin-2-carboxylate | CN1CCN(CC1)CC=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)OC | C23H26N2O3
